US06316482B1
A mixture of 4-(2,3-diaminobenzoyl)amino-3-methoxy-N-methyl-N-[4-methyl-2-[5-(4-methylpiperazin-1-yl)carbonylpent-1-yloxy]phenyl]benzamide (90 mg) and trimethyl orthoformate (1 ml) was refluxed for 4 hours. After removing excess reagent by evaporation, the residue was dissolved in chloroform and the solution was washed with water and saturated aqueous sodium bicarbonate solution. The organic layer was dried over magnesium sulfate and the solvent was evaporated in vacuo. The residue was purified by preparative thin-layer chromatography (chloroform-methanol=10:1) to give 4-(1H-benzimidazol-4-yl)carbonylamino-3-methoxy-N-methyl-N-[4-methyl-2-[5-(4-methylpiperazin-1-yl)carbonylpent-1-yloxy]phenyl]benzamide (51 mg) as a powder.

reactant | 4-(2,3-diaminobenzoyl)amino-3-methoxy-N-methyl-N-[4-methyl-2-[5-(4-methylpiperazin-1-yl)carbonylpent-1-yloxy]phenyl]benzamide | 90 mg | NC1=C(C(=O)NC2=C(C=C(C(=O)N(C3=C(C=C(C=C3)C)OCCCCCC(=O)N3CCN(CC3)C)C)C=C2)OC)C=CC=C1N | C34H44N6O5
reactant | trimethyl orthoformate | 1 ml | C(OC)(OC)OC | C4H10O3
product | 4-(1H-benzimidazol-4-yl)carbonylamino-3-methoxy-N-methyl-N-[4-methyl-2-[5-(4-methylpiperazin-1-yl)carbonylpent-1-yloxy]phenyl]benzamide | 51 mg | N1C=NC2=C1C=CC=C2C(=O)NC2=C(C=C(C(=O)N(C1=C(C=C(C=C1)C)OCCCCCC(=O)N1CCN(CC1)C)C)C=C2)OC | C35H42N6O5
